US07528147B2
4-{[5,6-Dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-indol-1-yl]acetyl}-1-methylpiperazin-2-one is prepared by following the procedure described in example 93, but using 0.1 g of 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetic acid and 0.039 g of 1-methylpiperazin-2-one. 0.088 g of 4-{[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetyl}-1-methylpiperazin-2-one is obtained, the characteristics of which are as follows:

reactant | 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetic acid | 0.1 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)O)C1=CC=2C(=NC=CC2)N1 | C19H17N3O4
reactant | 1-methylpiperazin-2-one | 0.039 g | CN1C(CNCC1)=O | C5H10N2O
product | 4-{[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetyl}-1-methylpiperazin-2-one | 0.088 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)N1CC(N(CC1)C)=O)C1=CC=2C(=NC=CC2)N1 | C24H25N5O4
